US07482448B2
To a cooled to 0° C. suspension of copper (I) iodide in ether (20 mL) under N2 is slowly added methyl lithium (1.6 M solution in ether, 21.3 mmol, 13.3 mL). The mixture is stirred at 0° C. for 10 min then cooled to −78° C. A solution of 3.55 mmol of (S)-2-Benzyloxycarbonylamino-3-chlorocarbonyl-propionic acid methyl ester (Ref: Synth. Comm 1993, 23(18), 2511-2526) in 12 mL of dry THF is added drop wise. The mixture is stirred at −78° C. for 30 min then quenched by adding methanol (2 mL). The mixture is poured into saturated NH4Cl (80 mL) and extracted with ether (2×40 mL). The organic layers are dried over magnesium sulfate and concentrated in vacuum. The residue is purified over 35 g silica gel, eluted with EtOAc:Heptane (1:1) to afford (S)-2-benzyloxycarbonylamino-4-oxo-pentanoic acid methyl ester (261 mg, 26%).

reactant | methyl lithium | 21.3 mmol, 1.6 M, 13.3 mL | C[Li]
reactant | (S)-2-Benzyloxycarbonylamino-3-chlorocarbonyl-propionic acid methyl ester | 3.55 mmol | COC([C@H](CC(=O)Cl)NC(=O)OCC1=CC=CC=C1)=O | C13H14ClNO5
solvent | ether | 20 mL | CCOCC | C4H10O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | copper (I) iodide | [Cu]I
product | (S)-2-benzyloxycarbonylamino-4-oxo-pentanoic acid methyl ester | 261 mg, 26% | COC([C@H](CC(C)=O)NC(=O)OCC1=CC=CC=C1)=O | C14H17NO5
